US08242175B2
A mixture of (E)-3-(5-dimethoxymethyl-pyridin-2-yl)-acrylic acid tert-butyl ester (1.76 mg, 6.30 mmol) in THF (30 ml) and 1 M HCl (25 ml) was stirred for 4 hours at room temperature, then brought to basic conditions with a 5% NaHCO3 solution and extracted twice with Et2O. The pooled organic phases were dried over Na2SO4 and evaporated in vacuo to dryness to give 1.45 g of (E)-3-(5-formyl-pyridin-2-yl)-acrylic acid tert-butyl ester as a white solid.

reactant | (E)-3-(5-dimethoxymethyl-pyridin-2-yl)-acrylic acid tert-butyl ester | 6.30 mmol, 1.76 mg | C(C)(C)(C)OC(\C=C\C1=NC=C(C=C1)C(OC)OC)=O | C15H21NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | HCl | 1 M, 25 ml | Cl | ClH
product | (E)-3-(5-formyl-pyridin-2-yl)-acrylic acid tert-butyl ester | 1.45 g | C(C)(C)(C)OC(\C=C\C1=NC=C(C=C1)C=O)=O | C13H15NO3
